US08835451B2
B. (E)-4-(4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-but-2-enoic acid benzyl ester
To a mixture of (benzyloxycarbonylmethyl)-triphenylphosphionium bromide (315 mg, 0.642 mmol) in THF (6 mL) at 0° C. is added NaH (60% in mineral oil, 27 mg, 0.642 mmol) and the suspension is allowed to stir at 0° C. for 30 min. (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-acetaldehyde (253 mg, 0.642 mmol) in THF (4 mL) is added dropwise. The reaction mixture is then stirred a 0° C. for 30 min and the at ambient temperature for 18 h. Water (10 mL) and HCl solution (1N, 15 mL) is added, and the reaction mixture is extracted with EtOAc (3×15 mL). The organic phase is washed with water (1×5 mL), brine (3×20 mL), dried and concentrated to give the title compound (279 mg) as an off-white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.02-1.14 (m, 2H) 1.34-1.49 (m, 3H) 1.59-1.73 (m, 1H) 1.80-1.87 (m, 3H) 2.11 (t, J=8.00 Hz, 2H) 2.46 (ddd, J=11.68, 9.16, 2.91 Hz, 1H) 5.11 (s, 2H) 5.82 (d, J=15.66 Hz, 1H) 6.90-6.99 (m, 1H) 7.14-7.17 (d, 8.08 Hz, 2H) 7.24-7.28 (m, 3H) 7.28-7.32 (m, 6H) 7.40 (d, J=8.08 Hz, 1H) 7.49 (s, 1H); (M+H)+527.2.

reactant | NaH | 0.642 mmol, 27 mg | [H-].[Na+]
reactant | (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-acetaldehyde | 0.642 mmol, 253 mg | ClC=1C=C(C=CC1)NC=1OC(=CN1)C1=CC=C(C=C1)C1CCC(CC1)CC=O | C23H23ClN2O2
reactant | Water | 10 mL | O | H2O
reactant | HCl | 1N, 15 mL | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (E)-4-(4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-but-2-enoic acid benzyl ester | 279 mg | C(C1=CC=CC=C1)OC(\C=C\CC1CCC(CC1)C1=CC=C(C=C1)C1=CN=C(O1)NC1=CC(=CC=C1)Cl)=O | C32H31ClN2O3
